Level 3 - underdamped series RLC
V1 in 0 DC 5
R1 in n1 20
L1 n1 out 10m
C1 out 0 1u
RLEAK out 0 10k
.tran 20u 2m 0 5u UIC
.print tran v(in) v(n1) v(out) i(v1) i(l1)
.end
